US08106190B2
Hydrochloride of 1-ethyl-3-[3-(N,N-dimethylamino)propyl]carbodiimide (250 mg) was added to a chloroform (15 mL) solution of 4-chloro-2-(cyclopentylamino)benzoic acid (250 mg) and 7-amino-1-methyl-3,4-dihydroquinolin-2(1H)-one (184 mg), followed by stirring at room temperature for 26 hours. The reaction liquid was concentrated under a reduced pressure. By purifying the residue by silica gel column chromatography (chloroform:methanol, 1:0 to 9:1), 4-chloro-2-(cyclopentylamino)-N-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)benzamide was obtained. By treating this with 4 M hydrogen chloride/ethyl acetate solution, 4-chloro-2-(cyclopentylamino)-N-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)benzamide hydrochloride (97 mg) was obtained as a solid.

reactant | Hydrochloride | Cl | ClH
reactant | 1-ethyl-3-[3-(N,N-dimethylamino)propyl]carbodiimide | 250 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | 4-chloro-2-(cyclopentylamino)benzoic acid | 250 mg | ClC1=CC(=C(C(=O)O)C=C1)NC1CCCC1 | C12H14ClNO2
reactant | 7-amino-1-methyl-3,4-dihydroquinolin-2(1H)-one | 184 mg | NC1=CC=C2CCC(N(C2=C1)C)=O | C10H12N2O
solvent | chloroform | 15 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-chloro-2-(cyclopentylamino)-N-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)benzamide | ClC1=CC(=C(C(=O)NC2=CC=C3CCC(N(C3=C2)C)=O)C=C1)NC1CCCC1 | C22H24ClN3O2
